US05786486
In 8 mL of anhydrous methylene chloride, was dissolved 6.06 g (68.0 mmol) of 2-amino-2-methyl-1-propanol. Thereto, a solution of 4.47 g (17.0 mmol) of 2,3-dimethoxy-1,4-benzenedicarboxylic chloride in 8 mL of anhydrous methylene chloride was added by keeping the inner temperature at 5°-10° C., and the mixture was stirred at room temperature for 2 hours. The reaction mixture was filtered, and washed with water. The filtrate and the wash water were combined and concentrated under a reduced pressure. Methylene chloride was added to the obtained residue, and the mixture was dried over anhydrous sodium sulfate. The solvent was removed. The product was recrystallized from benzene to obtain 6.27 g (100%) of N,N'-bis(2-hydroxy-1,1-dimethylethyl)-2,3-dimethoxy-1,4-phenylenedicarboxamide in a colorless prism crystal state.

reactant | 2-amino-2-methyl-1-propanol | 68.0 mmol, 6.06 g | NC(CO)(C)C | C4H11NO
reactant | 2,3-dimethoxy-1,4-benzenedicarboxylic chloride | 17.0 mmol, 4.47 g | COC1=C(C=CC(=C1OC)C(=O)Cl)C(=O)Cl | C10H8Cl2O4
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
product | N,N'-bis(2-hydroxy-1,1-dimethylethyl)-2,3-dimethoxy-1,4-phenylenedicarboxamide | 6.27 g, 100% | OCC(C)(C)NC(=O)C1=C(C(=C(C=C1)C(=O)NC(CO)(C)C)OC)OC | C18H28N2O6
